US07049307B2
To a stirred solution of 2-(3,3-dimethoxypropyl)-2H-indazole-6-ylamine (582 mg, 2.48 mmol) in THF (9 mL) was added 4-phenoxyphenylisocyanate (523 mg, 2.48 mmol) and the reaction was heated to 40 C for 3 h. The heating bath was removed and the reaction was then concentrated under reduced pressure to a dark oil. The oil was dissolved in Ethyl acetate and passed through a small plug of SiO2 gel, eluting with additional EtOAc. The eluent was concentrated under reduced pressure to give 1-[2-(3,3-dimethoxypropyl)-2H-indazol-6-yl]-3-(4-phenoxyphenyl)urea as a beige solid. 1H NMR (300 MHz, DMSO-D6) δ ppm 2.50 (m, 2 H), 3.32 (m, 6 H), 4.36 (m, 3 H), 6.97 (m, 6 H), 7.09 (t, J=7.46 Hz, 1 H), 7.36 (m, 2 H), 7.48 (m, 2 H), 7.59 (d, J=8.82 Hz, 1 H), 7.83 (s, 1 H) and 8.66 (m, 2 H); MS(ESI) 445 (M−H)−.

reactant | 2-(3,3-dimethoxypropyl)-2H-indazole-6-ylamine | 2.48 mmol, 582 mg | COC(CCN1N=C2C=C(C=CC2=C1)N)OC | C12H17N3O2
reactant | 4-phenoxyphenylisocyanate | 2.48 mmol, 523 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)N=C=O | C13H9NO2
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | 1-[2-(3,3-dimethoxypropyl)-2H-indazol-6-yl]-3-(4-phenoxyphenyl)urea | COC(CCN1N=C2C=C(C=CC2=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1)OC | C25H26N4O4
